US05017579
(b) 4-(4-Hydroxy-benzenesulphonyl)-5-isopropyl-3-phenyl-isoxazole
A mixture of 2.5 g (0.005 mol) of 5-isopropyl-3-phenyl-4-(4-tosyloxy-benzenesulphonyl)-isoxazole and 0.8 g (0.02 mol) of sodium hydroxide in 20 ml of isopropanol and 10 ml of water was heated under reflux for 2.5 hours. After reacting, the mixture was allowed to cool, diluted with 50 ml of water and acidified with concentrated hydrochloric acid. The product so obtained was suction-filtered and washed with water to obtain 1.4 g of the desired compound which was purified by elution chromatography on silica using chloroform as eluent.

reactant | 5-isopropyl-3-phenyl-4-(4-tosyloxy-benzenesulphonyl)-isoxazole | 0.005 mol, 2.5 g | C(C)(C)C1=C(C(=NO1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C25H23NO6S2
reactant | sodium hydroxide | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4-(4-Hydroxy-benzenesulphonyl)-5-isopropyl-3-phenyl-isoxazole | 1.4 g | OC1=CC=C(C=C1)S(=O)(=O)C=1C(=NOC1C(C)C)C1=CC=CC=C1 | C18H17NO4S
